US06022974
A solution of 2.5 g (20 mmol) of 2-hydroxy-5-hydroxymethylpyridine and 4.16 g of phosphorus pentachloride in 10 ml of phosphoryl chloride was stirred for 6 hours at 105° C. After cooling, 50 ml of chloroform was added, the excess chlorination reagent being hydrolyzed by careful addition of water. The organic phase was washed with NaHCO3 solution, dried on NaSO4 and concentrated by evaporation. The distillation of the oily residue at 16 mm and 120° C. yielded 3.08 g of 2-chloro-5-chloromethyl-pyridine as a colorless oil that solidified during the cooling. The latter corresponds to a yield of 95 percent relative to the 2-hydroxy-5-hydroxymethyl-pyridine. Further data concerning the product was:

reactant | 2-hydroxy-5-hydroxymethylpyridine | 20 mmol, 2.5 g | OC1=NC=C(C=C1)CO | C6H7NO2
reactant | phosphorus pentachloride | 4.16 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | phosphoryl chloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-chloromethyl-pyridine | 3.08 g, yield of 95 percent | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
